US05463071
4-(4-Diethylphosphorylamidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole
Prepared by reacting 4-(4-amidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole with diethylphosphorylcyanide in dimethylformamide.

reactant | 4-(4-amidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole | C(N)(=N)C1=CC=C(C=C1)C=1N=C(N(C1)C)C1=CC=C(C=C1)CCC(=O)OC | C21H22N4O2
reactant | diethylphosphorylcyanide | C(C)P(=O)(CC)C#N | C5H10NOP
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-Diethylphosphorylamidino-phenyl)-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole | C(C)P(=O)(CC)NC(=N)C1=CC=C(C=C1)C=1N=C(N(C1)C)C1=CC=C(C=C1)CCC(=O)OC | C25H31N4O3P
